US07612075B2
B. 2-Acetylamino-3-(5-chloro-thiophen-2-yl)-acrylic acid.
To a solution containing 4-(5-chloro-thiophen-2-ylmethylene)-2-methyl-4H-oxazol-5-one (1.5 g, 6.82 mmol) in MeOH (18 mL) is added 1.0 M NaOH (12.0 mL, 12 mmol) at ambient temperature. After 3 h, the reaction mixture is diluted with water (100 mL) and CH2Cl2 (100 mL) and the layers are separated. The basic, aqueous layer is washed with CH2Cl2 and then acidified using 1.0 M HCl (20 mL) to provide a crude solid which is collected on a Buchner funnel. Drying in vacuo provided 1.2 g (75%) of the title compound as a pale brown solid which is used without further purification. 1H NMR (300 MHz, DMSO-d6) δ2.00 (s, 3H), 7.14 (d, J=4.01 Hz, 1H), 7.38 (d, J=4.01 Hz, 1H), 7.63 (s, 1H), 9.28 (s, 1H), 12.73 (br s, 1H) ppm; MS (EI): m/z 245 (M+).

reactant | 4-(5-chloro-thiophen-2-ylmethylene)-2-methyl-4H-oxazol-5-one | 6.82 mmol, 1.5 g | ClC1=CC=C(S1)C=C1N=C(OC1=O)C | C9H6ClNO2S
reactant | NaOH | 12 mmol, 1.0 M, 12.0 mL | [OH-].[Na+]
solvent | MeOH | 18 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Acetylamino-3-(5-chloro-thiophen-2-yl)-acrylic acid | 1.2 g, 75% | C(C)(=O)NC(C(=O)O)=CC=1SC(=CC1)Cl | C9H8ClNO3S
